US08252820B2
A mixture of 2-benzyloxy-6-fluoroaniline (950 mg, 4.37 mmol), methyl bromoacetate (456 μL, 737 mg, 4.82 mmol), and potassium carbonate (1.21 g, 8.76 mmols) in DMF (10 mL) is heated at 60° C. for 18 h. The mixture is poured into ethyl acetate and extracted once with water and five times with brine. The organic layer is dried, filtered, and the solvent removed under reduced pressure to afford a crude oil that is chromatographed on an Isco Companion (80 g silica gel, 0-30% gradient of hexane/ethyl acetate) to afford methyl 2-(2-benzyloxy-6-fluoroanilino)-acetate as an oil. MS (M+1)+=290; NMR (CDCl3): δ 7.39 (m, 5H), 6.67 (m, 3H), 5.10 (s, 2H), 4.57 (br s, 1H), 4.11 (m, 2H), 3.72 (s, 3H).

reactant | 2-benzyloxy-6-fluoroaniline | 4.37 mmol, 950 mg | C(C1=CC=CC=C1)OC1=C(N)C(=CC=C1)F | C13H12FNO
reactant | methyl bromoacetate | 4.82 mmol, 456 μL, 737 mg | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 8.76 mmols, 1.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-(2-benzyloxy-6-fluoroanilino)-acetate | C(C1=CC=CC=C1)OC1=C(NCC(=O)OC)C(=CC=C1)F | C16H16FNO3
